US09238640B2
Preparation of N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)-N-isopropylacetamide
To a solution of N-(1-(4-formylphenyl)piperidin-4-yl)-N-isopropylacetamide (0.300 g, 1.04 mmol) in DMA (10 mL) was added 2-amino-4,6-dimethoxybenzamide (0.204 g, 1.04 mmol), NaHSO3 (0.129 g, 1.24 mmol) and p-TsOH (0.019 g, 0.10 mmol). The resulting solution was heated to 155° C. overnight and then cooled to room temperature. The solution was diluted with water, extracted with CH2Cl2, washed with brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The material was purified by flash chromatography on silica gel eluting, with 30% to 100% of 92:7:1 CHCl3/MeOH/concentrated NH4OH in CH2Cl2, to afford the title compound (0.100 g, 20%). 1H NMR (300 MHz, DMSO-d6): mixture of rotamers δ 11.66 (s, 1H), 8.07 (d, J=8.3 Hz, 2H), 6.89-7.15 (m, 2H), 6.67 (s, 1H), 6.46 (s, 1H), 3.90-4.11 (m, 3H), 3.88 (s, 3H), 3.83 (s, 3H), 2.80-3.02 (m, 2H), 2.39-2.66 (m, 1H), 1.92-2.06 (m, 3H), 1.63-1.82 (m, 2H), 1.32-1.47 (m, 1H), 1.21-1.32 (m, 3H), 1.08-1.21 (m, 4H). ESI MS m/z 463 [M−H]−.

reactant | N-(1-(4-formylphenyl)piperidin-4-yl)-N-isopropylacetamide | 1.04 mmol, 0.300 g | C(=O)C1=CC=C(C=C1)N1CCC(CC1)N(C(C)=O)C(C)C | C17H24N2O2
reactant | 2-amino-4,6-dimethoxybenzamide | 1.04 mmol, 0.204 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | NaHSO3 | 1.24 mmol, 0.129 g | OS(=O)[O-].[Na+]
reactant | p-TsOH | 0.10 mmol, 0.019 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | N-(1-(4-(5,7-dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)phenyl)piperidin-4-yl)-N-isopropylacetamide | 0.100 g, 20% | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCC(CC1)N(C(C)=O)C(C)C)=O | C26H32N4O4
